US08871753B2
Step D: tert-Butyl [3-(2-{2-[(tert-butoxycarbonyl)amino]-5-[(2-chloro-5-fluoropyrimidin-4-yl)amino]phenyl}ethyl)phenyl]carbamate
To a solution of tert-butyl [3-(2-{5-amino-2-[(tert-butoxycarbonyl)amino]phenyl}ethyl)phenyl]carbamate (0.4 g, 0.9 mmol) and 2,4-dichloro-5-fluoropyrimidine (0.156 g, 0.936 mmol) in N,N-dimethylformamide (7 mL) was added potassium carbonate (0.662 g, 4.79 mmol). The resultant mixture was stirred overnight at rt overnight. The reaction was quenched with water. EtOAc was added and the layers were separated. The aqueous layer was extracted with EtOAc twice. The combined organic layers were washed with brine, dried (Na2SO4), filtered and concentrated. The residue was purified by silica gel column chromatography to give the desired product (0.32 g, 61%). LCMS for C28H33ClFNaN5O4 (M+Na)+: m/z=580.2.

reactant | tert-butyl [3-(2-{5-amino-2-[(tert-butoxycarbonyl)amino]phenyl}ethyl)phenyl]carbamate | 0.9 mmol, 0.4 g | NC=1C=CC(=C(C1)CCC=1C=C(C=CC1)NC(OC(C)(C)C)=O)NC(=O)OC(C)(C)C | C24H33N3O4
reactant | 2,4-dichloro-5-fluoropyrimidine | 0.936 mmol, 0.156 g | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
reactant | potassium carbonate | 4.79 mmol, 0.662 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 7 mL | CN(C=O)C | C3H7NO
product | tert-Butyl [3-(2-{2-[(tert-butoxycarbonyl)amino]-5-[(2-chloro-5-fluoropyrimidin-4-yl)amino]phenyl}ethyl)phenyl]carbamate | 0.32 g, 61% | C(C)(C)(C)OC(=O)NC1=C(C=C(C=C1)NC1=NC(=NC=C1F)Cl)CCC=1C=C(C=CC1)NC(OC(C)(C)C)=O | C28H33ClFN5O4
